US07858640B2
[8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yl]acetic Acid Methyl Ester
A mixture of trifluoromethanesulfonic acid 8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yl ester (0.24 g), 1-(tert-butyldimethylsilyloxy)-1-methoxyethene (0.56 mL), sodium acetate (0.053 g), tris(dibenzylideneacetone) dipalladium (0) (0.024 g) and 1,1′-bis(diphenylphospino) ferrocene (0) (0.014 g) in N,N-dimethylformamide (2 mL) was heated by microwave irradiation at 120° C. for 10 minutes. The mixture was diluted with ethyl acetate, washed with water and saturated aqueous sodium chloride solution and then dried over sodium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel, eluting with a mixture of ethyl acetate and cyclohexane (1:9 to 1:6 by volume) to afford title compound as a pink solid, 0.12 g.

reactant | trifluoromethanesulfonic acid 8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yl ester | 0.24 g | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)C)OS(=O)(=O)C(F)(F)F | C19H14Cl2F3NO3S
reactant | 1-(tert-butyldimethylsilyloxy)-1-methoxyethene | 0.56 mL | [Si](C)(C)(C(C)(C)C)OC(=C)OC | C9H20O2Si
reactant | sodium acetate | 0.053 g | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 0.024 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
catalyst | 1,1′-bis(diphenylphospino) ferrocene | 0.014 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | [8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yl]acetic Acid Methyl Ester | COC(CC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=CC=C(C=C1)Cl)C)=O | C21H19Cl2NO2
